US09359329B2
A mixture of 7 g (64.1 mmol) of 2-hydrazinopyridine and 10.3 g (64.1 mmol) of methyl 4-oxotetrahydrothiophene-3-carboxylate in 130 mL of MeOH is heated for 12 hours at 80° C. The medium is then concentrated under reduced pressure and the residue obtained is purified by chromatography on a column of silica gel, eluting with a DCM/MeOH gradient of from 0 to 10% MeOH. After concentrating under reduced pressure, 8.7 g (34.5 mmol) of hydrazone intermediate, in the form of a yellow powder, are isolated and are then added portionwise, at room temperature, to a solution of 0.8 g (34.5 mmol) of sodium in 46 mL of anhydrous MeOH. The reaction medium is stirred for 2 hours at room temperature, and the precipitate formed is then filtered off and washed successively with 10 mL of MeOH and 20 mL of pentane. The residue obtained is dissolved in 20 mL of water and 10 mL of acetic acid are added. The precipitate obtained is filtered off, washed with 10 mL of water, dried under vacuum and recrystallized from EtOH. 4.2 g of 2-pyridin-2-yl-1,2,4,6-tetrahydro-3H-thieno[3,4-c]pyrazol-3-one are obtained in the form of a whitish powder.

reactant | 2-hydrazinopyridine | 64.1 mmol, 7 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | methyl 4-oxotetrahydrothiophene-3-carboxylate | 64.1 mmol, 10.3 g | O=C1C(CSC1)C(=O)OC | C6H8O3S
reactant | sodium | 34.5 mmol, 0.8 g | [Na] | Na
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 130 mL | CO | CH4O
solvent | MeOH | 46 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 2-pyridin-2-yl-1,2,4,6-tetrahydro-3H-thieno[3,4-c]pyrazol-3-one | 4.2 g, Yield=56% | N1=C(C=CC=C1)N1NC2=C(C1=O)CSC2 | C10H9N3OS
